US04307033
27.2 g (0.1 mol) of α,β-dibromo-isovaleric acid methyl ester were added dropwise to a solution of 19.9 g (0.2 mol) of cyanoacetic acid methyl ester and 10.8 g (0.2 mol) of sodium methylate in 50 ml of methanol at 20° C. The mixture was then heated to 64° C. for 5 hours. The solvent was then stripped off in vacuo. 100 ml of water and 100 ml of ether were added to the residue. The ether phase was separated off, dried over sodium sulphate and evaporated. The residue was fractionated twice. 12 g (57% of theory) of 3,3-dimethyl-1-cyano-cyclopropane-1,2-dicarboxylic acid dimethyl ester were obtained in the form of a colorless oil of boiling point 152° C./10 mm Hg.

reactant | α,β-dibromo-isovaleric acid methyl ester | 0.1 mol, 27.2 g | COC(C(C(C)(C)Br)Br)=O | C6H10Br2O2
reactant | cyanoacetic acid methyl ester | 0.2 mol, 19.9 g | COC(CC#N)=O | C4H5NO2
reactant | sodium methylate | 0.2 mol, 10.8 g | C[O-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3,3-dimethyl-1-cyano-cyclopropane-1,2-dicarboxylic acid dimethyl ester | 12 g, 57% | COC(=O)C1(C(C1(C)C)C(=O)OC)C#N | C10H13NO4
